US04234594
1-Acetyl-2[1-(4-methoxyphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline
5-Amino-3-methyl-1-(4-methoxyphenyl) pyrazole HCl (Farmaco 17, 443, 1962) (23.9 g.) and 1-acetyl-2-imidazolinone (15.4 g.) were reacted as described in Example I to give 14.6 g. of product, mp 129°-131°.

reactant | 5-Amino-3-methyl-1-(4-methoxyphenyl) pyrazole HCl | 23.9 g | Cl.NC1=CC(=NN1C1=CC=C(C=C1)OC)C
reactant | 1-acetyl-2-imidazolinone | 15.4 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2[1-(4-methoxyphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC=C(C=C1)OC)C | C16H19N5O2
